US04374266
Following the procedure of Example 1B, the 4,5-difluorophthalic anhydride product was reacted with ammonia to form the ammonium 4,5-difluorophthalamate.

reactant | 4,5-difluorophthalic anhydride | FC=1C=C2C(C(=O)OC2=O)=CC1F | C8H2F2O3
reactant | ammonia | N | H3N
product | ammonium 4,5-difluorophthalamate | FC=1C=C(C(C(=O)[O-])=CC1F)C(=O)N.[NH4+] | InChI=1S/C8H5F2NO3.H3N/c9-5-1-3(7(11)12)4(8(13)14)2-6(5)10;/h1-2H,(H2,11,12)(H,13,14);1H3
